US07652125B2
In a 2 L four-neck flask provided with a thermometer, a Dimroth condenser and an agitator, the obtained 62.5 g of 4,6-di(1-adamantyl)-1,3-bis(4-carboxy-phenoxy)benzene dipotassium salt (0.09 mol) and 200 mL of 1,2-dichloroethane were charged and cooled to 0° C. 178.5 g of thionyl chloride (1.5 mol) was added dropwise at 5° C. or below for one hour. Then, 1.5 mL of dimethylformamide and 1.5 g of hydroquinone were added therein and the mixture was agitated at 45 to 50° C. for three hours. After cooling, crystal was removed therefrom by filtration and washed with 50 mL of chloroform. Filtrate and washing solution was condensed together under reduced pressure at 40° C. or less, and a residue obtained was subject to two times of extraction and filtration with 200 mL of diethyl ether. Diethyl ether was removed from an extract under reduced pressure to obtain a semisolid crude product. The semisolid crude product was washed with dried n-hexane and recrystallized with diethyl ether, thus obtaining 38.9 g of 4,6-di(1-adamantyl)-1,3-bis(4-carboxy-phenoxy)benzene dichloride (0.0594 mol; the yield was 66.0%).

reactant | 4,6-di(1-adamantyl)-1,3-bis(4-carboxy-phenoxy)benzene dipotassium salt | 0.09 mol, 62.5 g | [K].[K].C12(CC3CC(CC(C1)C3)C2)C2=C(C=C(C(=C2)C23CC1CC(CC(C2)C1)C3)OC3=CC=C(C=C3)C(=O)O)OC3=CC=C(C=C3)C(=O)O
reactant | 1,2-dichloroethane | 200 mL | ClCCCl | C2H4Cl2
reactant | thionyl chloride | 1.5 mol, 178.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | hydroquinone | 1.5 g | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | 4,6-di(1-adamantyl)-1,3-bis(4-carboxy-phenoxy)benzene dichloride | 38.9 g, yield was 66.0% | [Cl-].[Cl-].C12(CC3CC(CC(C1)C3)C2)C2=C(C=C(C(=C2)C23CC1CC(CC(C2)C1)C3)OC3=CC=C(C=C3)C(=O)O)OC3=CC=C(C=C3)C(=O)O | InChI=1S/C40H42O6.2ClH/c41-37(42)29-1-5-31(6-2-29)45-35-16-36(46-32-7-3-30(4-8-32)38(43)44)34(40-20-26-12-27(21-40)14-28(13-26)22-40)15-33(35)39-17-23-9-24(18-39)11-25(10-23)19-39;;/h1-8,15-16,23-28H,9-14,17-22H2,(H,41,42)(H,43,44);2*1H/p-2
